US06894061B2
8-Fluoro-6-methylphenanthridine
The N-(4′-fluorobiphenyl-2-yl)acetamide (18.5 g, 80.7 mmol) was mixed with polyphosphoric acid (250 g) and heated at 120° C. with vigorous stirring for 48 hours. The hot reaction mixture was poured onto ice and stirred vigorously until homogeneous. Ammonium hydroxide (28-30%, aqueous) was added until the pH was greater than eight. A white precipitate was filtered, dissolved in ethyl acetate (250 mL), and re-filtered. The combined filtrate was washed with a saturated, aqueous, sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and evaporated in vacuo to a brown solid. The brown solid was purified by crystallization from a mixture of ethyl acetate-hexane to yield the title compound as a white, crystalline solid (15.9 g, 94%), m.p. 92-93° C.;

reactant | N-(4′-fluorobiphenyl-2-yl)acetamide | 80.7 mmol, 18.5 g | FC1=CC=C(C=C1)C1=C(C=CC=C1)NC(C)=O | C14H12FNO
reactant | Ammonium hydroxide | [OH-].[NH4+]
product | 8-Fluoro-6-methylphenanthridine | FC1=CC2=C(N=C3C=CC=CC3=C2C=C1)C | C14H10FN
